US08106221B2
Step 2. tert-butyl 3-(5-chloro-2-methylphenyl)-3-hydroxypropyl(methyl)carbamate
To a solution of tert-butyl 3-(5-chloro-2-methylphenyl)-3-oxopropyl(methyl)carbamate (1.3 g, 4.2 mmol) in MeOH (26 mL) was added NaBH4 (0.64 g, 16.7 mmol) in portions. After addition, the mixture was stirred at room temperature overnight. The solvent was removed in vacuo to the residue, which was portioned between water and EtOAc. The organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. 1H NMR (CDCl3, 400 MHz) δ 1.49 (s, 9H), 1.65 (s, 3H), 1.94 (m, 2H), 2.87 (s, 3H), 7.26 (m, 4H).

reactant | tert-butyl 3-(5-chloro-2-methylphenyl)-3-oxopropyl(methyl)carbamate | 4.2 mmol, 1.3 g | ClC=1C=CC(=C(C1)C(CCN(C(OC(C)(C)C)=O)C)=O)C | C16H22ClNO3
reactant | NaBH4 | 16.7 mmol, 0.64 g | [BH4-].[Na+]
solvent | MeOH | 26 mL | CO | CH4O
product | tert-butyl 3-(5-chloro-2-methylphenyl)-3-hydroxypropyl(methyl)carbamate | ClC=1C=CC(=C(C1)C(CCN(C(OC(C)(C)C)=O)C)O)C | C16H24ClNO3
